US06579328B2
2,4-Bis[N-butyl-N-(1-phenoxy-2,2,6,6-tetra-methylpiperidin-4-yl)amino]-6-[N,N-bis(2-ethylhexyl)amino]-s-triazine
The procedure of Example 1 is repeated using 5 g (6.5 mmol) of 2,4-bis[N-butyl-N-(1-oxyl-2,2,6,6-tetramethylpiperidin-4-yl)amino]-6-[N,N-bis(2-ethylhexyl)amino]-s-triazine, 3.09 g (30 mmol) of tert-butyl nitrite, 3.9 mg (0.0065 mmol) of (S,S)-(+)-N,N-bis(3,5-di-tert-butylsalicylidene)-1,2-cyclohexanediaminocobalt(II), 120 mL of pyridine and 2.42 g (26 mmol) of aniline at 75° C. The crude product obtained is purified by vacuum flash chromatography (2% ethyl acetate/heptane) to give 5 g of the title compound as a reddish oil in 83.3% yield. The structure is confirmed by 1Hnmr and elemental analysis.

reactant | 2,4-bis[N-butyl-N-(1-oxyl-2,2,6,6-tetramethylpiperidin-4-yl)amino]-6-[N,N-bis(2-ethylhexyl)amino]-s-triazine | 6.5 mmol, 5 g | C(CCC)N(C1CC(N(C(C1)(C)C)O)(C)C)C1=NC(=NC(=N1)N(CCCC)C1CC(N(C(C1)(C)C)O)(C)C)N(CC(CCCC)CC)CC(CCCC)CC | C45H88N8O2
reactant | tert-butyl nitrite | 30 mmol, 3.09 g | N(=O)OC(C)(C)C | C4H9NO2
reactant | aniline | 26 mmol, 2.42 g | NC1=CC=CC=C1 | C6H7N
reactant | pyridine | 120 mL | N1=CC=CC=C1 | C5H5N
product | 2,4-Bis[N-butyl-N-(1-phenoxy-2,2,6,6-tetra-methylpiperidin-4-yl)amino]-6-[N,N-bis(2-ethylhexyl)amino]-s-triazine | 5 g, 83.3% yield | C(CCC)N(C1CC(N(C(C1)(C)C)OC1=CC=CC=C1)(C)C)C1=NC(=NC(=N1)N(CCCC)C1CC(N(C(C1)(C)C)OC1=CC=CC=C1)(C)C)N(CC(CCCC)CC)CC(CCCC)CC | C57H96N8O2
